US07235572B2
In analogy to the procedure described in example 2 c], (4-{3-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester was treated with NaOH to obtain (4-{3-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid as white solid.

reactant | (4-{3-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=C(C=CC=C12)OCCCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C28H29F3N2O3S
reactant | NaOH | [OH-].[Na+]
product | (4-{3-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid | CC=1N=C(SC1CCCOC1=C2C=CN(C2=CC=C1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C24H21F3N2O3S
